US09328110B2
Ethyl 4-[(2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)amino]butyrate (86.2 g, 0.276 mol), sodium azide (35.49 g, 0.552 mol), and cerium chloride heptahydrate (50.86 g, 0.138 mol) were triturated in a 9:1 mixture of acetonitrile:water (1012 mL). The reaction mixture was stirred and heated to reflux for 18 hours. The reaction was filtered and the yellow filtrate was concentrated under reduced pressure to yield 90.94 g of crude product. The material was triturated at 95° C. with 360 mL ethyl acetate and filtered. The filtrate produced pale yellow crystals at ambient temperature to afford 64.3 g of ethyl 4-[(5,6-dimethyl-8-nitrotetrazolo[1,5-a]pyridin-7-yl)amino]butyrate as a yellow solid.

reactant | Ethyl 4-[(2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)amino]butyrate | 0.276 mol, 86.2 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])NCCCC(=O)OCC)C)C | C13H18ClN3O4
reactant | sodium azide | 0.552 mol, 35.49 g | [N-]=[N+]=[N-].[Na+]
reactant | cerium chloride heptahydrate | 0.138 mol, 50.86 g | O.O.O.O.O.O.O.[Cl-].[Ce+3].[Cl-].[Cl-]
reactant | acetonitrile | C(C)#N | C2H3N
solvent | water | 1012 mL | O | H2O
product | ethyl 4-[(5,6-dimethyl-8-nitrotetrazolo[1,5-a]pyridin-7-yl)amino]butyrate | 64.3 g | CC1=C(C(=C(C=2N1N=NN2)[N+](=O)[O-])NCCCC(=O)OCC)C | C13H18N6O4
